* source CIRCUIT SIMULATION
X_U1         0 N14859 N14569 N15131 N14707 N143295 TPS54202_TRANS PARAMS:
+  STEADY_STATE=0
R_R1         N14707 N14569  511k TC=0,0 
V_V1         N14569 0 12Vdc
L_L1         N14859 N14920  15uH  
C_C2         0 N14569  0.1uF  TC=0,0 
C_C3         0 N14569  10uF  TC=0,0 
R_R2         0 N14707  105k TC=0,0 
C_C4         N14859 N143295  0.1uF  TC=0,0 
C_C5         N14920 0  22uF  TC=0,0 
C_C6         N14920 0  22uF  TC=0,0 
C_C7         N15228 N15131  75pF  TC=0,0 
R_R3         N15228 N14920  49.9 TC=0,0 
R_R4         N15131 N15228  100k TC=0,0 
R_R5         0 N15131  13.3k TC=0,0 
